US07056943B2
2-[(2-{1-benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetyl)(methyl)amino]acetic acid
To an ice-cooled solution of tert-butyl 2-[(2-{1-benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetyl)(methyl)amino]acetate (5.17 g, 9.13 mmol) in methylene chloride (60 mL) was added trifluoroacetic acid (30 mL, 390 mmol). The reaction mixture was stirred for 1.5 hours at room temperature and concentrated. The residue was treated with diethyl ether and the mixture was concentrated to the precipitation point. The solid was purified by HPLC using 70% acetonitrile/0.1% formic acid in water as the mobile phase. The acetonitrile was evaporated, and the aqueous phase was extracted with ethyl acetate and washed with water and brine. The organic phase was evaporated to dryness and the residue was dried for 15 hours at 91° C. to give the title compound as a light pink solid (2.81 g, 60%), mp 178–179° C. Mass spectrum (−ESI, [M-H]−) m/z 509; 1HNMR (500 MHz, DMSO-d6): δ12.8–13.2 (br,1H), 8.45 (m, 1H), 8.35 (d, 1H, J=8.4 Hz), 7.7–7.8 (m, 3H), 7.55–7.65 (m, 2H), 7.4–7.45 (m, 2H), 7.25–7.35 (m, 5H), 5.6 (d, 2H, J=3.5 Hz), 4.15 (d, 2H, J=21.0 Hz), and 3.0 ppm (dd, 3H, J=22.0 Hz and 0.78 Hz).

reactant | tert-butyl 2-[(2-{1-benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetyl)(methyl)amino]acetate | 9.13 mmol, 5.17 g | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC(=CC=C1)OC(F)(F)F)C(C(=O)N(CC(=O)OC(C)(C)C)C)=O | C31H29F3N2O5
reactant | trifluoroacetic acid | 390 mmol, 30 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 2-[(2-{1-benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetyl)(methyl)amino]acetic acid | 2.81 g, 60% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC(=CC=C1)OC(F)(F)F)C(C(=O)N(CC(=O)O)C)=O | C27H21F3N2O5
